.subckt jumpernew 1 2  p params: status=1
* status=1 => ON
* status=0 => OFF
A1 p 0 0 0 0 ro pP 0 BUF
R2 0 ro 1meg
S1 2 1 pP 0 knop off
R1 p 3 1k
v1 3 0 {status} 
.model knop sw ron=1m roff=10G vt=0.5 vh=50m
.ends jumpernew 

.subckt jumpernewInvCtrl 1 2  p params: status=1
* status=1 => OFF
* status=0 => ON
A1 p 0 0 0 0 pN ro 0 BUF
R2 0 ro 1meg
S1 2 1 pN 0 knop off
R1 p 3 1k
v1 3 0 {status} 
.model knop sw ron=1m roff=10G vt=0.5 vh=50m
.ends jumpernewInvCtrl 
